US06018054
8-Azabicyclo[4.3.0]]non-2-ene
Dissolve 33.1 g (0.2 mol) of N-[(E)-2,4-pentadienyl]-N-(2-propenyl)-acetamide (title compound from Example A.3.) in 200 ml of xylene, pass a powerful stream of nitrogen through for 15 min, add 0.1 g of 4-hydroxyanisole, and then heat to reflux overnight. Concentrate, distil under high vacuum.

reactant | N-[(E)-2,4-pentadienyl]-N-(2-propenyl)-acetamide | 0.2 mol, 33.1 g | C(\C=C\C=C)N(C(C)=O)CC=C | C10H15NO
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | non-2-ene | CC=CCCCCCC | C9H18
